US04952591
N-(3-Aminophenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea
To the mixture of N-(3-nitrophenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea (4.6 g) in ethanol (46 ml) was added tin (2.6 g). To the reaction mixture was added concentrated hydrochloric acid (1.9 ml) at room temperature under stirring, further added concentrated hydrochloric acid (18.2 ml) under heating on a water bath. The reaction mixture was refluxed for 6 hours, concentrated under reduced pressure, diluted with water (100 ml), alkalized with aqueous sodium hydroxide solution and extracted with dichloromethane (200 ml). The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the crude precipitate (3.8 g; yield 88.4 %). This precipitate was recrystallized two times from ethanol to give the title compound (1.8 g), mp 116°-118 ° C. Analysis (%) for C22H30N4O2, Calcd. (Found): C, 69.08 (68.91); H, 7.91 (7.90); N, 14.65 (14.54).

reactant | N-(3-nitrophenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea | 4.6 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C22H28N4O4
reactant | tin | 2.6 g | [Sn] | Sn
reactant | hydrochloric acid | 1.9 ml | Cl | ClH
reactant | hydrochloric acid | 18.2 ml | Cl | ClH
solvent | ethanol | 46 ml | C(C)O | C2H6O
product | N-(3-Aminophenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea | 1.8 g | NC=1C=C(C=CC1)NC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C22H30N4O2
